US07544215B2
Step 1: Preparation of 6{[(E)-4-pyridinylmethylidene]amino}-1H-benzo[de]isoquinolin-1,3-(2H)-dione
3 g (14.13 mmol) of 4-aminonaphthalene-1,8-dicarboximide and 7.56 g (70.65 mmol) of 4-pyridinecarboxaldehyde in 180 mL of a 2:1 mixture of concentrated sulfuric acid and glacial acetic acid were stirred at 80° C. for 2 hours. The mixture was then poured onto ice and slowly neutralized or adjusted to a slightly alkaline pH (pH=about 8) with NaOH. The resulting precipitate was suction-filtered off, washed with copious amounts of water and then dried under vacuum. Yield: 2.28 g (54% of the theoretical), lustrous yellow powder. 1H-NMR (d6-DMSO/300 MHz): δ=6.46 (s, 1H); 7.52-7.56 (m, 2H, aromatic); 7.20 (d, J=5.7 Hz, 2H, pyridyl); 8.38 (m, 1H, aromatic); 8.65 (d, J=5.7 Hz, 2H, pyridyl), 8.71-8.73 (m, 2H, aromatic); 11.41 (s, 1 H, N—H).

reactant | 4-aminonaphthalene-1,8-dicarboximide | 14.13 mmol, 3 g | NC1=CC=C2C3=C(C=CC=C13)C(NC2=O)=O | C12H8N2O2
reactant | 4-pyridinecarboxaldehyde | 70.65 mmol, 7.56 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6{[(E)-4-pyridinylmethylidene]amino}-1H-benzo[de]isoquinolin-1,3-(2H)-dione | N1=CC=C(C=C1)\C=N\C=1C=CC=2C(NC(C3=CC=CC1C23)=O)=O | C18H11N3O2
